data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
574,630,[CH3:10][C:11]#[N+:12][C-:13]([CH3:14])[C:15]([CH3:16])=[O:17].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:13]([CH3:14])([C:15]([CH3:16])=[O:17])[N:12]=[C:11]2[CH3:10],water,298.15,11.280576390895398,-49.485081315241565
930,1009,[CH3:15][CH:16]=[O+:17][CH-:18][C:19]([CH3:20])=[O:21].[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:16]([CH3:15])[O:17][CH:18]2[C:19]([CH3:20])=[O:21],water,298.15,6.885334425425615,-78.16908973167085
2180,2418,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[NH:19][N:20]3[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,18.840561430936216,-30.692827806046093
4316,4936,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N-:15][O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:15]([C:13]([NH:12][CH3:11])=[O:14])[O:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,23.01589871668942,-18.74447716411358
617,677,[CH3:13][O:14][C:15](=[O:16])[CH:17]=[O+:18][N-:19][C:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:17]([C:15]([O:14][CH3:13])=[O:16])[O:18][N:19]2[C:20]#[N:21],water,298.15,9.20805772588498,-45.04260800431646
4222,4830,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][O+:12]=[C:13]([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[O:12][C:13]1([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,11.533515101081656,-38.28459972265631
2845,3161,[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[C:26]([C:27]([CH3:28])=[O:29])=[N+:30]([CH3:31])[C-:32]([C:33](=[O:34])[O:35][CH3:36])[C:37](=[O:38])[O:39][CH3:40]>>[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([O:23][CH3:22])=[O:25])([C:27]([CH3:28])=[O:29])[N:30]([CH3:31])[C:32]2([C:33](=[O:34])[O:35][CH3:36])[C:37](=[O:38])[O:39][CH3:40],water,298.15,41.331353491194456,-20.83363688720936
3471,3952,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[NH+:14][N-:15][C:16]([CH3:17])=[O:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]#[N:13])[NH:14][N:15]1[C:16]([CH3:17])=[O:18],water,298.15,27.10351182972962,-7.327930666000206
100,113,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][NH-:16].[CH3:1][O:2][C:3](=[O:4])[C:5]([F:6])=[C:7]([F:8])[F:9]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]([F:8])([F:9])[CH:14]([C:12]([NH:11][CH3:10])=[O:13])[NH:15][NH:16]1,water,298.15,18.728834625626188,-31.828867892685142
2722,3022,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([CH3:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C-:24]([NH+:25]=[C:26]([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([CH3:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([NH:21][CH3:20])=[O:23])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[NH:25][C:26]2([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32],water,298.15,33.36024375127769,-18.32040521701689
908,982,[CH2-:13][N+:14]([CH3:15])=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[N:14]([CH3:15])[CH2:13]2,water,298.15,10.30575689581529,-41.53961136111376
